US06452014B1
2-[4-[(2,4-Dioxothiazolidin-5-ylidene)methyl]phenyl]-5-nitrobenzimidazole was prepared from 5-(4-formylbenzylidene)-2,4-thiazolidinedione and 4-nitro-1,2-phenylenediamine by following General Procedure 2.

reactant | 5-(4-formylbenzylidene)-2,4-thiazolidinedione | C(=O)C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C11H7NO3S
reactant | 4-nitro-1,2-phenylenediamine | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
product | 2-[4-[(2,4-Dioxothiazolidin-5-ylidene)methyl]phenyl]-5-nitrobenzimidazole | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C17H10N4O4S
